US05665777
4-Phenylphenol (1.70 g, 10 mmol) and cesium carbonate (3.91 g (12 mmol) were stirred at room temperature under a nitrogen atmosphere in 20 mL of dimethylformamide until it appeared that no more solid was dissolving. At that point, 1.42 mL (12 mmol) of bromoacetaldehyde dimethyl acetal (2.03 g, 12 mmol) were added to the mixture via syringe and the resulting brown suspension was stirred at room temperature overnight. The mixture was then heated under reflux for two hours and then stirred at room temperature overnight. At the end of this period, 100 mL of water and 200 mL of diethyl ether were added; the organics were extracted into the ether layer, which was separated, dried over anhydrous sodium sulfate and evaporated to yield 2.10 g (81% yield) of dimethoxy-2-(4-biphenyloxy)ethane.

reactant | 4-Phenylphenol | 10 mmol, 1.70 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetaldehyde dimethyl acetal | 12 mmol, 1.42 mL, 2.03 g | COC(CBr)OC | C4H9BrO2
reactant | water | 100 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | dimethoxy-2-(4-biphenyloxy)ethane | 2.10 g, 81% yield | COC(C)(OC1=CC=C(C=C1)C1=CC=CC=C1)OC | C16H18O3
